US08440689B2
A. Methyl 6-(cis-2-Amino-3,3-difluorocyclohexylamino)-4-cyano-2-(m-tolylamino)nicotinate
To a screw-cap vial was added methyl 6-chloro-4-cyano-2-(m-tolylamino)nicotinate (200 mg, 0.663 mmol), cis-3,3-difluorocyclohexane-1,2-diamine hydrochloride (148 mg, 0.795 mmol), and DIPEA (347 μL, 1.989 mmol) in DMF (3.9 mL). The resulting brownish-yellow mixture was stirred at RT for 2 h and then at 60° C. for 12 h. The reaction mixture was cooled to RT, diluted with EtOAc (30 mL) and washed with water (2×10 mL) and brine (20 mL). The organic layer was collected, dried over Na2SO4, and concentrated to give a thick brown oil, which included the title compound and isomers (328 mg, 119%). The crude product was used without further purification. [M+H] calc'd for C21H23F2O2, 416. found, 416.

reactant | methyl 6-chloro-4-cyano-2-(m-tolylamino)nicotinate | 0.663 mmol, 200 mg | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC=1C=C(C=CC1)C | C15H12ClN3O2
reactant | cis-3,3-difluorocyclohexane-1,2-diamine hydrochloride | 0.795 mmol, 148 mg | Cl.FC1([C@@H]([C@@H](CCC1)N)N)F
reactant | DIPEA | 1.989 mmol, 347 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3.9 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | Methyl 6-(cis-2-Amino-3,3-difluorocyclohexylamino)-4-cyano-2-(m-tolylamino)nicotinate | N[C@@H]1[C@@H](CCCC1(F)F)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC=1C=C(C=CC1)C | C21H23F2N5O2
